US08629270B2
5-Allyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole
Alpha-bromoacetophenone (77.5 g, 389.36 mmol) is added to a rapidly stirring solution of acetonitrile (1 L) at 0° C. To this solution is added in a drop wise fashion, diallylamine (98.40 mL, 798.18 mmol) over 10 min. The mixture is warmed to room temperature and stirred for 96 h. The solvent is removed under reduced pressure and the residue is dissolved in ethanol (778.71 mL). Pyridine (110.20 mL, 1.36 mmol) is added to the solution followed by hydroxylamine hydrochloride (67.64 g, 973.39 mmol). The reaction is heated to 70° C. for 4 h and then stirred overnight at RT. The solvent is removed under reduced pressure and the residue is dissolved in toluene (1 L). The reaction is heated to 120° C. and stirred overnight. The solvent is removed under reduced pressure. The product is purified via silica gel chromatography eluting with 0-100% ethyl acetate/hexanes to give the title compound as a light red oil (71.2 g, 79.4%) that is used without further purification. EI/MS (m/e): 231.0 (M+H).

reactant | Alpha-bromoacetophenone | 389.36 mmol, 77.5 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | diallylamine | 798.18 mmol, 98.40 mL | C(C=C)NCC=C | C6H11N
reactant | hydroxylamine hydrochloride | 973.39 mmol, 67.64 g | Cl.NO
catalyst | Pyridine | 1.36 mmol, 110.20 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 5-Allyl-6a-phenyl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 71.2 g, 79.4% | C(C=C)N1CC2(NOCC2C1)C1=CC=CC=C1 | C14H18N2O
